US05312951
(b) 3,4-dimethyl-2,5,6-triphenyl-1-phosphanorbornadiene (according to F. Mathey et al., J. Chem. Soc. 1981, 103, 4595)
A solution of 27.94 g (158 mmol) of diphenylacetylene and 29.50 g (158 mmol) of 3,4-dimethyl-1-phenylphosphole in 100 ml of toluene are refluxed for 3 days. The reaction mixture is then evaporated to dryness under vacuum generated by an oil pump, and the residue is washed three times, each time using 70 ml of pentane. The product can be recrystallized from methylene chloride.

reactant | diphenylacetylene | 158 mmol, 27.94 g | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
reactant | 3,4-dimethyl-1-phenylphosphole | 158 mmol, 29.50 g | CC1=CP(C=C1C)C1=CC=CC=C1 | C12H13P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-dimethyl-2,5,6-triphenyl-1-phosphanorbornadiene | CC1=C(P2C(=C(C1(C2)C)C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C26H23P
